US04151356
(a) 2-Chloro-4,6-bis-[(2,2,6,6-tetramethylpiperidin-4-yl)-amino]-1,3,5-triazine
62.4 g of 2,2,6,6-tetramethyl-4-amino-piperidine in 200 ml of acetone and, at the same time, 42.4 g of sodium carbonate dissolved in 100 ml of water are added to a finely dispersed suspension of cyanuric chloride, prepared by adding 36.9 g of the latter in 200 ml of boiling acetone to 400 ml of ice water. The temperature is kept at 0°-5° C. by means of external cooling. After the addition is complete, the reaction mixture is allowed slowly to warm to room temperature and is stirred at this temperature for 3 hours. Filtering and recrystallisation of the product from ethyl acetate/hexane gives 46.3 g of a white crystalline product, melting point 270° C.

reactant | 2,2,6,6-tetramethyl-4-amino-piperidine | 62.4 g | CC1(NC(CC(C1)N)(C)C)C | C9H20N2
reactant | sodium carbonate | 42.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | cyanuric chloride | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | water | 100 ml | O | H2O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 2-Chloro-4,6-bis-[(2,2,6,6-tetramethylpiperidin-4-yl)-amino]-1,3,5-triazine | 46.3 g | ClC1=NC(=NC(=N1)NC1CC(NC(C1)(C)C)(C)C)NC1CC(NC(C1)(C)C)(C)C | C21H38ClN7
